US07960552B2
To a stirred solution of ethyl 6-[4-({[3-(2,6-dichlorophenyl) -5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinoxalinecarboxylate (0.112 g, 0.20 mmol) in ethanol (5 mL) and tetrahydrofuran (5 mL) was added 1 N sodium hydroxide (0.21 mL, 0.21 mmol). The reaction mixture was stirred at room temperature under nitrogen for 3.5 hours. The solvent was removed in vacuo and water (5 mL) was added to the resulting solid. The pH of the aqueous mixture was adjusted to ˜3 (litmus paper) with 1 N HCl. The acidic aqueous mixture was extracted with ethyl acetate. The aqueous phase was separated and extracted a second time with ethyl acetate. The aqueous phase was separated and found to contain product according to thin layer chromatography. The pH of the aqueous phase was adjusted to ˜2 (litmus paper) with 1 N HCl. The acidic aqueous phase was combined with the aforementioned ethyl acetate extracts. The organic phase was separated, washed with water followed by brine, dried over magnesium sulfate, filtered, and the filtrate was concentrated to give a yellow solid which was dried under high vacuum at room temperature to give 0.095 g (89%) of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinoxalinecarboxylic acid. 1H NMR (d6-DMSO, 400 MHz): δ 13.89 (br s, 1H), 9.40 (s, 1H), 8.32 (s, 1H), 8.24 (m, 2H), 7.81 (d, J=9 Hz, 2H), 7.62 (m, 2H), 7.53 (dd, J=9, 7 Hz, 1H), 6.95 (d, J=9 Hz, 2H), 4.89 (s, 2H), 3.47 (septet, J=7 Hz, 1H), 1.33 (d, J=7 Hz, 6H). ESI-LCMS m/z 532 (M−H)−.

reactant | ethyl 6-[4-({[3-(2,6-dichlorophenyl) -5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinoxalinecarboxylate | 0.20 mmol, 0.112 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2N=CC(=NC2=CC1)C(=O)OCC)C(C)C | C30H25Cl2N3O4
reactant | sodium hydroxide | 0.21 mmol, 1 N, 0.21 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinoxalinecarboxylic acid | 0.095 g, 89% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2N=CC(=NC2=CC1)C(=O)O)C(C)C | C28H21Cl2N3O4
